US08871796B2
A stirred solution of tert-butyl (3-{3-[5-(4-trifluoromethylphenoxy)-1-(1,3-oxazol-4-ylmethyl)-1H-pyrazol-3-yl]phenyl}oxetan-3-yl)carbamate (48 mg, 0.086 mmol) in 0.6 mL of CH2Cl2 was cooled in an ice bath, and to the solution was added 0.6 mL of TFA. The solution was stirred for 1.5 h and then quenched with 10% Na2CO3. The organic phase was washed with water and brine, dried over Na2SO4, and the solvent was removed under reduced pressure to give 3-{3-[1-(1,3-oxazol-4-ylmethyl)-5-(4-trifluoromethylphenoxy)-1H-pyrazol-3-yl]phenyl}oxetan-3-amine as a glass. Calcd (M+1)+: 457.4. found: 457.1.

reactant | tert-butyl (3-{3-[5-(4-trifluoromethylphenoxy)-1-(1,3-oxazol-4-ylmethyl)-1H-pyrazol-3-yl]phenyl}oxetan-3-yl)carbamate | 0.086 mmol, 48 mg | FC(C1=CC=C(OC2=CC(=NN2CC=2N=COC2)C=2C=C(C=CC2)C2(COC2)NC(OC(C)(C)C)=O)C=C1)(F)F | C28H27F3N4O5
reactant | TFA | 0.6 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 0.6 mL | C(Cl)Cl | CH2Cl2
product | 3-{3-[1-(1,3-oxazol-4-ylmethyl)-5-(4-trifluoromethylphenoxy)-1H-pyrazol-3-yl]phenyl}oxetan-3-amine | O1C=NC(=C1)CN1N=C(C=C1OC1=CC=C(C=C1)C(F)(F)F)C=1C=C(C=CC1)C1(COC1)N | C23H19F3N4O3
